US06770643B2
1-Methyl-5-phenylpyrazol-3-ylmethanol
A stirred suspension of sodium borohydride (1.28 g) in dry tetrahydrofuran (80 mL) was treated with calcium chloride (1.88 g). The mixture was stirred for 1 hour then treated with a solution of ethyl 1-methyl-5-phenylpyrazol-3-ylcarboxylate (5.2 g, prepared according to the procedure described by Martins et al., J. Heterocycl. Chem. (1999), 36(1), 217-220) in dry tetrahydrofuran (40 mL). After stirring at room temperature for 3 days and at reflux temperature for 8 hours the mixture was treated with sodium hydroxide solution (50 mL, 1N). This mixture was stirred at room temperature for 1 hour, then evaporated to remove the organic solvents and then extracted three times with dichloromethane (140 mL). The combined extracts were washed with water, then dried over magnesium sulfate and then evaporated to give the title compound as a white solid, m.p. 95-99° C.

reactant | sodium borohydride | 1.28 g | [BH4-].[Na+]
reactant | calcium chloride | 1.88 g | [Cl-].[Ca+2].[Cl-]
reactant | ethyl 1-methyl-5-phenylpyrazol-3-ylcarboxylate | CN1N=C(C=C1C1=CC=CC=C1)C(=O)OCC | C13H14N2O2
reactant | sodium hydroxide | 1N, 50 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-Methyl-5-phenylpyrazol-3-ylmethanol | CN1N=C(C=C1C1=CC=CC=C1)CO | C11H12N2O
